US05814653
6-benzyloxy-3-(t-butyloxycarbonyl)amino-1,2,3,4-tetrahydro-9H-carbazole
To a solution of 1.00 gm (3.42 mMol) 6-benzyloxy-3-amino-1,2,3,4-tetrahydro-9H-carbazole in 30 mL tetrahydrofuran were added 1.79 mL 2N sodium hydroxide followed by 0.784 gm (3.59 mMol) di(t-butyl)dicarbonate. The reaction mixture was stirred at room temperature for about 45 minutes and was then concentrated under reduced pressure. The residue was dissolved in dichloromethane and washed well with water. The remaining organics were dried over magnesium sulfate and concentrated under reduced pressure to give 1.339 gm (99%) of the desired compound.

reactant | 6-benzyloxy-3-amino-1,2,3,4-tetrahydro-9H-carbazole | 3.42 mMol, 1.00 gm | C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)N | C19H20N2O
reactant | sodium hydroxide | 2N, 1.79 mL | [OH-].[Na+]
reactant | di(t-butyl)dicarbonate | 3.59 mMol, 0.784 gm | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-benzyloxy-3-(t-butyloxycarbonyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 1.339 gm, 99% | C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)NC(=O)OC(C)(C)C | C24H28N2O3
